US20010019995A1
To a solution of 2-octylcycloprop-2-ene-1-carbonyl chloride (330 mg, 1.5 mmol) in 5 ml of ether is added 1.5 ml of triethylamine. 5-Hexyn-1-ol (0.18g, 1.8 mmol) was added to the reaction mixture, which was stirred at room temperature over the weekend. Water and additional ether were added, and the resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was washed with water and brine, dried over MgSO4, filtered and stripped. The product was chromatographed on silica gel to give 40 mg of 60% pure hex-5-yne 2-octylcycloprop-2-ene-1-carboxylate containing roughly 40% 2-octylcycloprop-2-ene-1-carboxylic acid.

reactant | 2-octylcycloprop-2-ene-1-carbonyl chloride | 1.5 mmol, 330 mg | C(CCCCCCC)C=1C(C1)C(=O)Cl | C12H19ClO
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 5-Hexyn-1-ol | 1.8 mmol, 0.18g | C(CCCC#C)O | C6H10O
reactant | Water | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
product | hex-5-yne 2-octylcycloprop-2-ene-1-carboxylate | 40 mg | C(CCCCCCC)C=1C(C1)C(=O)O.CCCCC#C | InChI=1S/C12H20O2.C6H10/c1-2-3-4-5-6-7-8-10-9-11(10)12(13)14;1-3-5-6-4-2/h9,11H,2-8H2,1H3,(H,13,14);1H,4-6H2,2H3
